US05171753
β-[(2,2-Dimethoxyethyl)amino]-α-phenylbenzeneethanol.
A mixture of trans-stilbene oxide (1.96 g, 0.010 mol) and 2,2-dimethoxyethylamine (3.15 g, 0.030 mol) was heated in an oil bath at 140° C. for 5 hours. After standing at ambient temperature for 16 hours, the solid reaction mixture was triturated with isooctane and the white solid that remained was collected by filtration to obtain 2.15 g (71%) of the product. The product was recrystallized from toluene-isooctane; mp 147°-149° C.

reactant | trans-stilbene oxide | 0.010 mol, 1.96 g | C=1C=CC(=CC1)[C@@H]2[C@H](O2)C=3C=CC=CC3 | C14H12O
reactant | 2,2-dimethoxyethylamine | 0.030 mol, 3.15 g | COC(CN)OC | C4H11NO2
product | β-[(2,2-Dimethoxyethyl)amino]-α-phenylbenzeneethanol | 2.15 g, 71% | COC(CNC(C(O)C1=CC=CC=C1)C1=CC=CC=C1)OC | C18H23NO3
